US08227458B2
trans-4-(Naphthalen-1-yloxy)-cyclohexanecarboxylic acid hydrazide
A mixture of trans-4-(naphthalen-1-yloxy)-cyclohexanecarboxylic acid methyl ester (0.130 g, 0.457 mmol) and hydrazine hydrate (0.022 ml, 0.45 mmol) in methanol (0.5 ml) was heated at 80° C. for 16 h. After cooling to room temperature the reaction mixture was partitioned between ethyl acetate (50 ml) and 1 M aqueous sodium hydroxide solution (50 ml). The organic layer was separated. The aqueous layer was extracted with two 50-ml portions of ethyl acetate. The combined organic layers were dried over anhydrous sodium sulfate and concentrated in vacuo to give a 3:1 mixture of the crude title compound and starting material. This mixture (0.12 g) and hydrazine hydrate (0.022 ml, 0.45 mmol) were dissolved in 1,4-dioxane (0.4 ml) and heated at reflux for 18 h. After cooling to room temperature the reaction mixture was partitioned between ethyl acetate (50 ml) and 1 M aqueous sodium hydroxide solution (50 ml). The organic layer was separated. The aqueous layer was extracted with two 50-ml portions of ethyl acetate. The combined organic layers were dried over anhydrous sodium sulfate and concentrated in vacuo to give the crude title compound (0.120 g, 83%) as yellow solid with a purity of 90%, which was used in the next step without further purification. MS m/e: 285 (M+H+)

reactant | trans-4-(naphthalen-1-yloxy)-cyclohexanecarboxylic acid methyl ester | 0.457 mmol, 0.130 g | COC(=O)[C@@H]1CC[C@H](CC1)OC1=CC=CC2=CC=CC=C12 | C18H20O3
reactant | hydrazine hydrate | 0.45 mmol, 0.022 ml | O.NN
reactant | hydrazine hydrate | 0.45 mmol, 0.022 ml | O.NN
solvent | methanol | 0.5 ml | CO | CH4O
solvent | 1,4-dioxane | 0.4 ml | O1CCOCC1 | C4H8O2
product | trans-4-(Naphthalen-1-yloxy)-cyclohexanecarboxylic acid hydrazide | 0.120 g, 83% | C1(=CC=CC2=CC=CC=C12)O[C@@H]1CC[C@H](CC1)C(=O)NN | C17H20N2O2
